US09353107B2
Step-ii: tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(methylsulfonamido)phenyl)piperidine-1-carboxylate
Using similar reaction conditions as described in step-ii of example-82, tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(methylsulfonamido)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (250 mg, 0.307 mmol) was reduced with palladium hydroxide (250 mg) in ethyl acetate/ethanol 10/10 mL to afford 200 mg (80% yield) of the titled compound. MS: m/z=817.7 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(methylsulfonamido)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.307 mmol, 250 mg | FC=1C=C(CN2N=C(C=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)C3=CCN(CC3)C(=O)OC(C)(C)C)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C41H40F2N6O6S2
solvent | 1-(3-nitrobenzyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | [N+](=O)([O-])C=1C=C(CN2N=CC(=C2)B2OC(C(O2)(C)C)(C)C)C=CC1 | C16H20BN3O4
catalyst | palladium hydroxide | 250 mg | [OH-].[Pd+2].[OH-]
product | tert-butyl 4-(4-(3-(1-(3,5-difluorobenzyl)-1H-pyrazol-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(methylsulfonamido)phenyl)piperidine-1-carboxylate | 200 mg, 80% yield | FC=1C=C(CN2N=C(C=C2)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)C3CCN(CC3)C(=O)OC(C)(C)C)NS(=O)(=O)C)S(=O)(=O)C3=CC=C(C)C=C3)C=C(C1)F | C41H42F2N6O6S2
